US07034018B2
3-{2-[(2-Fluoro-phenyl)-piperidin-1-yl-methyl]-pyrrol-1-yl}-propionitrile
The preparation was carried out in accordance with general synthesis instructions 4 from 3-pyrrol-1-yl-propionitrile and 1-(2-fluoro-benzylidene)-piperidinium chloride, which had been prepared in accordance with example 3 from 2-fluorobenzaldehyde and piperidine.

reactant | 3-pyrrol-1-yl-propionitrile | N1(C=CC=C1)CCC#N | C7H8N2
reactant | 1-(2-fluoro-benzylidene)-piperidinium chloride | [Cl-].FC1=C(C=[N+]2CCCCC2)C=CC=C1
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-{2-[(2-Fluoro-phenyl)-piperidin-1-yl-methyl]-pyrrol-1-yl}-propionitrile | FC1=C(C=CC=C1)C(C=1N(C=CC1)CCC#N)N1CCCCC1 | C19H22FN3
